US09169259B2
To a mixture of 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol (40 mg, 0.1 mmol) and K2CO3 (28 mg, 0.2 mmol) in DMF (5 mL) was added 2-(piperidin-1-yl)ethyl methanesulfonate (25 mg, 0.12 mmol). The mixture was heated at 50° C. for 16 h. After cooling, the mixture was poured into water and extracted with EtOAc (8 mL 3). The combined organic layers were washed with brine, then dried over MgSO4. After filtration and concentration, the residue was purified by chromatography (silica gel, EtOAc) to give N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(3-(2-(piperidin-1-yl)ethoxy)phenyl)imidazo[1,2-b]pyridazin-8-amine (20 mg, 40%). 1H NMR (300 MHz, CDCl3): δ 8.67 (s, 1H), 8.08 (s, 1H), 7.93 (s, 1H), 7.60-7.53 (m, 3H), 7.45-7.37 (m, 2H), 7.05-7.01 (m, 1H), 6.23 (d, 1H, J=7.5 Hz), 6.04 (d, 1H, J=8.4 Hz), 4.31-4.21 (m, 3H), 3.71-3.65 (m, 1H), 3.54-3.48 (m, 1H), 2.85 (t, 2H, J=6.0 Hz), 2.57 (brs, 4 h), 2.17-2.04 (m, 3H), 1.76-1.62 (m, 5H), 1.48 (brs, 2H), 1.26 (d, 3H, J=6.6 Hz). LC/MS: 498 [M+H]+, tR=1.15 min. HPLC: 99.14% at 214 nm, 99.51% at 254 nm, tR=3.97 min.

reactant | 3-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol | 0.1 mmol, 40 mg | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C=CC1)O)C=CN2 | C22H22N6O
reactant | K2CO3 | 0.2 mmol, 28 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(piperidin-1-yl)ethyl methanesulfonate | 0.12 mmol, 25 mg | CS(=O)(=O)OCCN1CCCCC1 | C8H17NO3S
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(3-(2-(piperidin-1-yl)ethoxy)phenyl)imidazo[1,2-b]pyridazin-8-amine | 20 mg, 40% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC(=CC=C1)OCCN1CCCCC1)C=CN2 | C29H35N7O
